US05624937
3-Chloro-6-phenylpyridazine (0.026 moles, 5.0 g), 4-aminothiophenol (0.026 moles, 3.3 g) and potassium carbonate (0.026 moles, 3.6 g) were stirred in 250 ml ethanol for 3 days. The reaction was filtered, concentrated, ethyl acetate added, washed with water and dried over sodium sulfate. The solution was concentrated and the product purified by HPLC over silica gel eluted with 50% ethyl acetate/hexane to yield 3-(4-aminophenylthio)-6-phenylpyridazine 6.0 g, 83%. Mass Spec (FD) 279. Calculated for C16H13N3S: C, 68.79; H, 4.69; N, 15.04. Found: C, 68.87; H, 4.43 N, 15.31.

reactant | 3-Chloro-6-phenylpyridazine | 0.026 moles, 5.0 g | ClC=1N=NC(=CC1)C1=CC=CC=C1 | C10H7ClN2
reactant | 4-aminothiophenol | 0.026 moles, 3.3 g | NC1=CC=C(C=C1)S | C6H7NS
reactant | potassium carbonate | 0.026 moles, 3.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 3-(4-aminophenylthio)-6-phenylpyridazine | 6.0 g, 83% | NC1=CC=C(C=C1)SC=1N=NC(=CC1)C1=CC=CC=C1 | C16H13N3S
